US07511041B2
(5) 2-Amino-3-methoxy-4-(methoxymethoxy)benzonitrile
To 5% palladium on activated carbon 6.00 g under argon atmosphere was added a solution of 3-methoxy-4-(methoxymethoxy)-2-nitrobenzonitrile 6.00 g (25.2 mmol) in ethanol 50 mL and stirred under hydrogen atmosphere at room temperature for 8 hours. The reaction mixture was filtrated and the filtrate was concentrated in vacuo. Silica gel chromatography (n-hexane/AcOEt=4/1) afforded the title compound 2.83 g as white solid. Yield 53.9%.

reactant | 3-methoxy-4-(methoxymethoxy)-2-nitrobenzonitrile | 25.2 mmol, 6.00 g | COC=1C(=C(C#N)C=CC1OCOC)[N+](=O)[O-] | C10H10N2O5
catalyst | palladium on activated carbon | 6.00 g | [Pd] | Pd
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-Amino-3-methoxy-4-(methoxymethoxy)benzonitrile | 2.83 g, Yield 53.9% | NC1=C(C#N)C=CC(=C1OC)OCOC | C10H12N2O3
